US07994331B2
Production of methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate
1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride was added to a pyridine (500 ml) solution of methyl 4-amino-2-fluorobenzoate (18.9 g) and picolinic acid (16.5 g), and stirred at room temperature for 2 hours. The solvent was evaporated away under reduced pressure, ethyl acetate (600 ml) was added to it, and the organic layer was washed with aqueous 0.25 N hydrochloric acid solution, aqueous 0.25 N sodium hydroxide solution and saturated saline water. After dried, this was concentrated under reduced pressure, and solidified from a mixed solvent of hexane/ethyl acetate, and taken out through filtration. After dried under reduced pressure, the entitled compound was obtained as a white solid.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | methyl 4-amino-2-fluorobenzoate | 18.9 g | NC1=CC(=C(C(=O)OC)C=C1)F | C8H8FNO2
reactant | picolinic acid | 16.5 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-fluoro-4-[(2-pyridinylcarbonyl)amino]benzoate | FC1=C(C(=O)OC)C=CC(=C1)NC(=O)C1=NC=CC=C1 | C14H11FN2O3
